US08957089B2
82.2 1-[1-(4-Chlorophenyl)cyclobutyl]-7-methoxy-3,4-dihydroisoquinoline
1-(4-Chlorophenyl)-N-[2-(4-methoxyphenyl)ethyl]cyclobutanecarboxamide (10.58 g, 30.8 mmol) was treated with toluene (100 mL). Phosphoryl trichloride (4.72 g, 30.8 mmol) was added and the reaction mixture was heated under reflux for 8 h. After cooling to room temperature the reaction mixture was concentrated in vacuo and then slowly poured in ice water. Ethyl acetate was added and the organic layer was washed with water (2×), dried (MgSO4) and concentrated in vacuo to give an orange oil. Yield: 10.25 g.

reactant | 1-(4-Chlorophenyl)-N-[2-(4-methoxyphenyl)ethyl]cyclobutanecarboxamide | 30.8 mmol, 10.58 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)NCCC1=CC=C(C=C1)OC | C20H22ClNO2
reactant | Phosphoryl trichloride | 30.8 mmol, 4.72 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[1-(4-Chlorophenyl)cyclobutyl]-7-methoxy-3,4-dihydroisoquinoline | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OC | C20H20ClNO
